US06245763B1
8. 3-(Benzyloxycarbonylamino)-1-propoxyamine
To a solution of N-[3-(benzyloxycarbonylamino)-1-propoxylphthalimide (1.42 g, 4.0 mmol), as prepared in the preceding step, in ethanol (20 mL) and tetrahydrofuran (20 mL) was added 40% methylamine (2 mL, 25 mmol). The solution was stirred at room temperature for 1 h. The solvent was evaporated and the residue passed through silica gel (3:1 ethyl acetate:hexane to ethyl acetate) to give the title compound as a white solid (870 mg, 97%). 1H-NMR (300 MHz, CDCl3) δ7.36 (m, 5H), 5.38 (br s, 2H), 5.09 (s, 2H), 5.08 (br s, 1H), 3.73 (t, J=5.9 Hz, 2H), 3.29 (q, J=6.2 Hz, 2H), 1.79 (pentet, J=6.2 Hz, 2H).

reactant | 3-(benzyloxycarbonylamino)-1-propoxylphthalimide | 4.0 mmol, 1.42 g | C(C1=CC=CC=C1)OC(=O)NC=1C2C(C(=O)NC2=O)(C=CC1)OCCC | C19H20N2O5
reactant | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
reactant | methylamine | 25 mmol, 2 mL | CN | CH5N
solvent | ethanol | 20 mL | C(C)O | C2H6O
product | 3-(Benzyloxycarbonylamino)-1-propoxyamine | 870 mg, 97% | C(C1=CC=CC=C1)OC(=O)NCCCON | C11H16N2O3
